US04673746
3-(2-fluorophenyl)-6-methoxy-7-methyl-1,2-benzisoxazole (16.1 g) is heated at 200° C. for two hours with 64 g of pyridine hydrochloride. The melt is poured into H2O and extracted with ethyl acetate. After washing with 5% HCl the ethyl acetate is dried and evaporated to give 3-(2-fluorophenyl)-6-hydroxy-7-methyl-1,2-benzisoxazole, mp 216°-219° C.

reactant | 3-(2-fluorophenyl)-6-methoxy-7-methyl-1,2-benzisoxazole | 16.1 g | FC1=C(C=CC=C1)C1=NOC2=C1C=CC(=C2C)OC | C15H12FNO2
reactant | pyridine hydrochloride | 64 g | Cl.N1=CC=CC=C1
solvent | H2O | O | H2O
product | 3-(2-fluorophenyl)-6-hydroxy-7-methyl-1,2-benzisoxazole | FC1=C(C=CC=C1)C1=NOC2=C1C=CC(=C2C)O | C14H10FNO2
